US07807709B2
B. (3S,4R)-3-Azidomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (3R,4S)-3-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (2.7 g, 4.71 mmol) in DMF (20 mL) is added in one portion NaN3 (774 mg, 11.8 mmol) and the mixture is stirred at 70° C. overnight. After cooling to room temperature, a saturated aqueous NaHCO3 solution is added, followed by extraction with diethyl ether. The combined organics are washed with brine, dried over Na2SO4 and concentrated. The crude product is purified by RP-HPLC on a PrepC18 OBD column (dimensions: 30×100 mm; 5 μM particle size, SunFire Ltd) and using a 95-5% gradient of MeCN/H2O 5:95 (containing 0.1% TFA) to MeCN/H2O 95:5 (containing 0.1% TFA) over 20 min gives the title compound as colorless oil. TLC, Rf (hexane/AcOEt 1:3)=0.31. MS: 520.2 [M+H]+. tR (HPLC, Nucleosil C18HD column, 20-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 5.04 min.

reactant | (3R,4S)-3-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.71 mmol, 2.7 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)COS(=O)(=O)C)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C27H44N2O9S
reactant | NaN3 | 11.8 mmol, 774 mg | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (3S,4R)-3-Azidomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN=[N+]=[N-] | C26H41N5O6
